US07465795B2
4-Amino-8-(2-fluoro-6-methylpyridin-3-yl)-cinnoline-3-carboxylic acid propylamide
The title compound was prepared from 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (300.0 mg, 0.97 mmol) and 2-fluoro-6-methylpyridine-3-boronic acid (426.7 mg, 2.75 mmol) according to Method A to afford a white solid (124.2 mg, 38%). 1H NMR (300.132 MHz, CDCl3) δ 8.53 (bs, 1H), 7.94 (t, J=1.4 Hz, 1H), 7.92 (dt, J=8.6, 1.4 Hz, 1H), 7.89 (d, J=7.6 Hz, 1H), 7.83 (dt, J=7.1, 1.2 Hz, 1H), 7.74 (dd, J=8.8, 7.3 Hz, 1H), 7.19 (dd, J=7.4, 1.3 Hz, 1H), 3.46 (q, J=6.7 Hz, 2H), 2.59 (s, 3H), 1.66 (sextet, J=7.3 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H). MS APCI, m/z=340 (M+H). HPLC 2.28 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.97 mmol, 300.0 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2-fluoro-6-methylpyridine-3-boronic acid | 2.75 mmol, 426.7 mg | FC1=NC(=CC=C1B(O)O)C | C6H7BFNO2
product | 4-Amino-8-(2-fluoro-6-methylpyridin-3-yl)-cinnoline-3-carboxylic acid propylamide | C(CC)NC(=O)C=1N=NC2=C(C=CC=C2C1N)C=1C(=NC(=CC1)C)F | C18H18FN5O
